US03962307
To a solution of 25 parts of 2,4,6-triisopropylbenzyl chloride (Organic Reactions, Vol. I, p. 68) in 150 parts of carbon tetrachloride is added 1 part of iron powder. The mixture is cooled and maintained at 15°-20°C, and then a solution of 16 parts bromine in 15 parts carbon tetrachloride is added dropwise during two hours. The resulting solution is washed with dilute sodium bicarbonate solution and water. It is dried with magnesium sulfate and stripped of solvent in vacuo giving 3-bromo-2,4,6-triisopropylbenzyl chloride, b.p. 111°C. (0.05 mm.)

reactant | 2,4,6-triisopropylbenzyl chloride | C(C)(C)C1=C(CCl)C(=CC(=C1)C(C)C)C(C)C | C16H25Cl
reactant | bromine | BrBr | Br2
catalyst | iron | [Fe] | Fe
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromo-2,4,6-triisopropylbenzyl chloride | BrC=1C(=C(CCl)C(=CC1C(C)C)C(C)C)C(C)C | C16H24BrCl
